US04233309
Lithium aluminum hydride (3.1 g; 80.5 mmoles) was added to 100 ml of dry ether, and an ether solution (50 ml) of 17.9 g (91.8 mmoles) of ethyl 2-(2,5-dimethylpyrrol-1-yl)propionate was gradually added dropwise to the mixture. After the addition, the mixture was heated under reflux for 2 hours, and worked up with a saturated aqueous solution of sodium sulfate. The ethereal layer was concentrated under reduced pressure to afford 13.5 g of crude 2-(2,5-dimethylpyrrol-1-yl)-1-propanol. Acetic anhydride (50 ml) and 50 ml of pyridine were added to the product, and the mixture was allowed to stand at room temperature for 20 hours. It was then concentrated under reduced pressure and then distilled under reduced pressure to afford 2-(2,5-dimethylpyrrol-1-yl)propyl acetate (13.0 g, 66.8 mmoles, 75.7%) having a boiling point of 116°-118° C./6 mmHg.

reactant | Lithium aluminum hydride | 80.5 mmoles, 3.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(2,5-dimethylpyrrol-1-yl)propionate | 91.8 mmoles, 17.9 g | CC=1N(C(=CC1)C)C(C(=O)OCC)C | C11H17NO2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(2,5-dimethylpyrrol-1-yl)-1-propanol | 13.5 g | CC=1N(C(=CC1)C)C(CO)C | C9H15NO
